2178-05-27 06:43:00 Physician Resident Progress Note
Chief Complaint: 77 year old man with hx of hypertension, DM2, prostate
   cancer s/p XRT, and GI bleed presents following right total hip
   arthroplasty complicated by post-operative bleeding
   24 Hour Events:
   - Remained hemodynamically stable
   - Hct trended: 34.5 -> 26.4 -> 21.4
   - Patient currently being transfused 2 units
   - Ortho attending this am: requesting CVL for CVP monitoring
   Allergies:
   Lisinopril
   Cough;
   Aspirin
   Anemia;
   Last dose of Antibiotics:
   Cefazolin - [**2178-5-27**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-5-27**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 73 (73 - 106) bpm
   BP: 110/42(60) {94/41(56) - 134/57(74)} mmHg
   RR: 14 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    525 mL
                                                                  1,518 mL
   PO:
           TF:
   IVF:
                                                                    525 mL
                                                                  1,288 mL
   Blood products:
   230 mL
   Total out:
                                                                    105 mL
                                                                     85 mL
   Urine:
                                                                     55 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                    420 mL
                                                                  1,433 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: NAD
   CV: RRR, no m/r/g
   Pulm: CTAB anteriorly
   Abd: Soft, NTND, obese
   Ext: L thigh with tense skin, much larger than right, wound dressed and
   intact, peripheral pulses full and symmetric bilat
   Labs / Radiology
   222
   1.0
   24
   4.6
   19
   105
   138
   21.4 %
        [image002.jpg] Ca 7.7 Mag 1.4 Phos 3.7
   AM Labs pending
                             [**2178-5-27**]  03:30 AM
   Hct
   21.4
   Microbiology: No new
   Assessment and Plan
   77 year old man with DM2, HTN, osteoartitis s/p right THA complicated
   post-op bleeding.
    # Acute blood loss anemia: likely secondary to surgical bleeding. No
   stool output yet to suggest GI source. Hct with acute drop overnight
   from 34.5 to 26.4 to 21.4.  Pt currently receiving 2 units PRBCs.
   Orthopedics aware this morning.
   - Post-tx Hct and cycle q6
   - Transfuse for <24% as this would likely suggest significant
   re-bleeding
   - Guaiac all stools
   - CVL today for more definitive access as patient with only one working
   PIV at this time (also very hard peripheral stick).  Will also aid with
   overall volume monitoring
   - Will continue to monitor for signs of compartment syndrome (ie pain
   out of proportion to exam)
   - Touch base with orthopedics later this morning to confirm they do not
   want further imaging/? If they would like to assess pressure in right
   thigh with probe
   - Awaiting am labs until CVL placed as unable to draw blood
   peripherally
   - IVF/blood prn volume; patient appears dry on exam
   # Osteoarthritis s/p THA: now POD#1 from surgery.
   - Pain control with tylenol, additional morphine being careful to avoid
   sedation/somnolence
   - Ortho recs
   - PA/lat hip films final read
   - Continue peri-op prophylactic antibiotics.
   - Hold LMWH for now in the setting of bleed, will discuss
   anticoagulation with ortho once Hct stabilized
   - Monitor peripheral pulses
   - PT consult requested for POD 2 or 3 once acute issues resolved
   # DM2: Adequate control for now.
   - Hold oral meds for now (metformin, actos, glipizide)
   - RISS
   # Hypertension: hold anti-hypertensives until Hct stable
   # FEN: Replete lytes prn, IVF as above, PO as tolerated
   ICU Care
   Nutrition: PO as tolerated
   Glycemic Control:  ISS, holding oral meds
   Lines:
   18 Gauge - [**2178-5-26**] 09:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker (famotidine)
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2178-05-27 09:03:00 Physician Attending Progress Note
Chief Complaint: Postop bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo man s/p total hip arthroplasty. H/O GIB. EBL intraop 1.5L in OR
   got 3L LR, 2U PRBC. No known CAD. Normotensive in OR. Hct 34.5--> 24 in
   PACU (though different techniques).
   24 Hour Events:
   Hemodynamically stable- no episodes of hypotension.
   Hct 34.5--> 26.4--> 21.4.
   Hemovac removed, site oozing.
   RN noted apneic episodes while sleeping.
   Allergies:
   Lisinopril
   Cough;
   Aspirin
   Anemia;
   Last dose of Antibiotics:
   Cefazolin - [**2178-5-27**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Neurologic: No(t) Numbness / tingling
   Pain: [**6-16**] Moderate
   Flowsheet Data as of  [**2178-5-27**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 70 (70 - 106) bpm
   BP: 113/53(67) {94/41(56) - 134/57(74)} mmHg
   RR: 13 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
          Total In:
                                                                    525 mL
                                                                  1,663 mL
   PO:
          TF:
   IVF:
                                                                    525 mL
                                                                  1,288 mL
   Blood products:
   375 mL
   Total out:
                                                                    105 mL
                                                                    180 mL
   Urine:
                                                                     55 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
                                                                     30 mL
   Balance:
                                                                    420 mL
                                                                  1,483 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, dry mucosa
   Cardiovascular: (S1: Normal), (S2: Distant), distant HS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Tight and enlarged right thigh
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): all, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   21.4 %
        [image002.jpg]
                             [**2178-5-27**]  03:30 AM
   Hct
   21.4
   Assessment and Plan
   BLOOD LOSS
   20% Hct drop postop. Hemodynamically stable but poor urine output.
   H/O GI bleed.
   No known significant cardiac history.
   Has received total of 4U PRBC and 4.6L crystalloid.
   Pending repeat hct to check response to transfusion. Needs more fluid
   resuscitation.
   Will place CVC.
   Obviously holding antihypertensive meds.
   Guaiac all stools.
   RISK OF COMPARTMENT SYNDROME
   Discuss with ortho. Exam difficult to guage.
   POSTOP PAIN MANAGEMENT
   PO diet.
   H2 blocker.
   Pneumoboots.
   FULL CODE.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2178-5-26**] 09:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2178-05-28 07:30:00 Physician Resident Progress Note
Chief Complaint: 77 year old man with hx of hypertension, DM2, prostate
   cancer s/p XRT, and GI bleed presents following right total hip
   arthroplasty complicated by post-operative bleeding
   24 Hour Events:
 MULTI LUMEN - START [**2178-5-27**] 11:35 AM
   tripple lumen central line placed successfully with normal f/u Xray
   - Pain worsened after PT; got one dose of dilaudid 1 mg with good
   effect, then did not require any more pain meds till midnight.  pulses
   good.  thigh diameter mainatined at 23.75 inches
   - Received 4 units of pRBC in 24 hr perior with only 1.5 pt increase in
   HCT.  Ortho aware that there was no significant increase after 2 units,
   but said it's expected after such a bloody case. will need to
   re-address in AM
   - Had CVL placed
   Allergies:
   Lisinopril
   Cough;
   Aspirin
   Anemia;
   Last dose of Antibiotics:
   Cefazolin - [**2178-5-27**] 08:04 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-5-28**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37
C (98.6
   HR: 82 (66 - 118) bpm
   BP: 141/55(71) {109/43(41) - 156/69(83)} mmHg
   RR: 12 (8 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (0 - 11)mmHg
   Total In:
                                                                  4,421 mL
                                                                    268 mL
   PO:
                                                                    480 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,463 mL
                                                                    168 mL
   Blood products:
                                                                  1,478 mL
   Total out:
                                                                  1,460 mL
                                                                  1,630 mL
   Urine:
                                                                  1,430 mL
                                                                  1,630 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                  2,961 mL
                                                                 -1,362 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Gen:
   CV:
   PULM:
   ABD:
   EXT:
   Labs / Radiology
   97 K/uL
   8.7 g/dL
   123 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.1 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   24.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2178-5-27**]  03:30 AM
                             [**2178-5-27**]  11:33 AM
                             [**2178-5-27**]  07:22 PM
                             [**2178-5-28**]  01:38 AM
                             [**2178-5-28**]  03:57 AM
   WBC
   9.7
   Hct
   21.4
   22.8
   24.6
   24.2
   24.0
   Plt
   97
   Cr
   0.8
   Glucose
   123
   Other labs: PT / PTT / INR:12.3/29.8/1.0, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:2.3 mg/dL
   Imaging: IMPRESSION: AP chest compared to [**5-26**]:
   New right internal jugular central venous line ends at the superior
   cavoatrial junction. Mild widening of the mediastinum to the right of
   the midline is probably venous engorgement since there is no
   contralateral displacement of
   the trachea to suggest a hematoma. Heart size is mildly enlarged and
   unchanged. Mild interstitial edema which was present on [**5-26**] has
   resolved and there is no appreciable pleural effusion. Thoracic aorta
   is generally large and tortuous but not focally dilated.
   Assessment and Plan
   77 year old man with DM2, HTN, osteoartitis s/p right THA complicated
   post-op bleeding.
    # Acute blood loss anemia: Secondary to surgical bleeding. No stool
   output yet to suggest GI source. Hct trend over 24 hours is
   21.4->22.8->24.6->24.2->24 this morning. Patient has rec
d a total of 6
   units prbcs over 24 hours and is currently receiving 2 more units
   PRBCs.  Orthopedics aware this morning.
   - Post-tx Hct and cycle q6
   - Transfuse for <24% as this would likely suggest significant
   re-bleeding
   - Guaiac all stools
   - Continue to monitor thigh diameter
   - Will continue to monitor for signs of compartment syndrome (ie pain
   out of proportion to exam)
   - Awaiting post-tx Hct to determine if futher imaging such as CT should
   be done to rule out other areas of bleed (such as RP)
   - IVF/blood prn volume; patient appears dry on exam
   - As it is still not entirely clear if patient is bleeding anywhere
   other than his thigh, will check bladder pressure to monitor abdominal
   pressures as a measure to follow along with thigh diameter (which has
   been stable).
   # Thrombocytopenia: Likely in the setting of 6 units prbcs without
   platelets.
   - Will continue to monitor pm CBC, if platelets lower, will consider
   platelet tx at that time
   # Osteoarthritis s/p THA: now POD#1 from surgery.
   - Pain control with tylenol, oxycodone and dilaudid being careful to
   avoid sedation/somnolence
   - Ortho recs
   - Hold LMWH for now in the setting of bleed, will discuss
   anticoagulation with ortho once Hct stabilized
   - Monitor peripheral pulses
   - PT consult requested for POD 2 or 3 once acute issues resolved
   # DM2: Adequate control for now.
   - Hold oral meds for now (metformin, actos, glipizide)
   - RISS
   # Hypertension: hold anti-hypertensives until Hct stable
   # FEN: Replete lytes prn, IVF as above, PO as tolerated
   ICU Care
   Nutrition: PO
   Glycemic Control: ISS
   Lines:
   18 Gauge - [**2178-5-26**] 09:30 PM
   Multi Lumen - [**2178-5-27**] 11:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Famotidine
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2178-05-29 07:29:00 Physician Resident Progress Note
Chief Complaint: 77 year old man with hx of hypertension, DM2, prostate
   cancer s/p XRT, and GI bleed presents following right total hip
   arthroplasty complicated by post-operative bleeding
   24 Hour Events:
   -delay in getting second unit of PRBCs, awaiting repeat HCT/PLT,
   transfusion goal for PLTs <50K.
   -post Hct check is up to 27.6 from 24, a bump but not appropriate for 2
   units, plts up too to 121, stable on next check at MN 27.8, on am labs
   28.4
   -ortho recs: if Hct not bumping, ok with imaging, hold lovenox, WBAT
   -bladder pressure 14
   Allergies:
   Lisinopril
   Cough;
   Aspirin
   Anemia;
   Last dose of Antibiotics:
   Cefazolin - [**2178-5-27**] 08:04 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-5-29**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 83 (83 - 114) bpm
   BP: 153/57(81) {117/43(63) - 158/114(118)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (5 - 15)mmHg
   Bladder pressure: 7 (6 - 14) mmHg
   Total In:
                                                                  2,194 mL
                                                                     40 mL
   PO:
                                                                  1,060 mL
   TF:
   IVF:
                                                                    384 mL
                                                                     40 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  5,580 mL
                                                                  1,020 mL
   Urine:
                                                                  5,580 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,386 mL
                                                                   -980 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   125 K/uL
   9.9 g/dL
   114 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.7 mEq/L
   8 mg/dL
   99 mEq/L
   137 mEq/L
   28.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2178-5-27**]  03:30 AM
                             [**2178-5-27**]  11:33 AM
                             [**2178-5-27**]  07:22 PM
                             [**2178-5-28**]  01:38 AM
                             [**2178-5-28**]  03:57 AM
                             [**2178-5-28**]  06:45 PM
                             [**2178-5-28**]  11:54 PM
                             [**2178-5-29**]  02:57 AM
   WBC
   9.7
   9.5
   Hct
   21.4
   22.8
   24.6
   24.2
   24.0
   27.6
   27.8
   28.5
   Plt
   97
   121
   125
   Cr
   0.8
   0.7
   Glucose
   123
   114
   Other labs: PT / PTT / INR:11.9/27.9/1.0, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:1.6 mg/dL
   Imaging: No new
   Microbiology: No new
   Assessment and Plan
   77 year old man with DM2, HTN, osteoartitis s/p right THA complicated
   post-op bleeding.
   # Acute blood loss anemia: Secondary to surgical bleeding. No stool
   output yet to suggest GI source. Hct increased to 28.4 this morning
   from 24 after 2 units. Has been stable over two measurements. Patient
   has rec
d a total of 8 units prbcs since admission.  Orthopedics saw
   patient this morning, recommended continue monitoring, WBAT.
   - Continue to cycle Hct q6
   - Transfuse for <24% as this would likely suggest significant
   re-bleeding
   - Guaiac all stools
   - Continue to monitor thigh diameter, has been stable at 24in.
   - Will continue to monitor for signs of compartment syndrome (ie pain
   out of proportion to exam)
   - No need for further imaging at this point as Hct stable.
   - IVF/blood prn volume; patient appears dry on exam
   - Bladder pressure 14->6->7. Can continue to monitor, has been stable.
   # Thrombocytopenia: Likely in the setting of 6 units prbcs without
   platelets.  Improved without transfusion.
   - Will continue to monitor pm CBC, if decreasing, can consider plt tx,
   no need at this time
   # Osteoarthritis s/p THA: now POD#1 from surgery.
   - Pain control with tylenol, oxycodone and dilaudid being careful to
   avoid sedation/somnolence
   - Ortho recs
   - Hold LMWH for now in the setting of bleed, will discuss
   anticoagulation with ortho once Hct stabilized
   - Monitor peripheral pulses
   - PT recommending rehab
   # DM2: Adequate control for now.
   - Hold oral meds for now (metformin, actos, glipizide)
   - RISS
   # Hypertension: hold anti-hypertensives until Hct stable
   # FEN: Replete lytes prn, IVF as above, PO as tolerated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-5-26**] 09:30 PM
   Multi Lumen - [**2178-5-27**] 11:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Famotidine
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Continue ICU monitoring for now, can consider c/o later
   today